### ISSUE TITLE
HexPolyMathlib Phase 6: add toPolynomial_one, ofPolynomial_one, toPolynomial_neg, toPolynomial_sub simp wrappers

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5166]
## Current state

`HexPolyMathlib/Basic.lean` exposes a polished `@[simp]` bridge from
`Hex.DensePoly R` to `Polynomial R`. The currently-shipped wrappers cover
the multiplicative-zero and additive-monoid surface:

| executable side                       | bridge `@[simp]` wrapper                |
| ------------------------------------- | --------------------------------------- |
| `(0 : DensePoly R)` (`Zero` instance) | `toPolynomial_zero` (line 217)          |
| `DensePoly.C c`                       | `toPolynomial_C` (line 223)             |
| `(p + q)` (`Add` instance)            | `toPolynomial_add` (line 233)           |
| `(p * q)` (`Mul` instance)            | `toPolynomial_mul` (line 242)           |
| `ofPolynomial 0`                      | `ofPolynomial_zero` (line 210)          |

These feed `equiv : Hex.DensePoly R ≃+* Polynomial R` (line 275),
`equiv_apply`, `equiv_symm_apply`, and downstream consumers in
`HexPolyMathlib/Euclid.lean`.

The asymmetric corner is the unit / additive-group cluster.
`Hex.DensePoly R` has:

- `instance [One R] : One (DensePoly R)` defined as `C 1` in
  `HexPoly/Euclid.lean:25-26`,
- `instance [Sub R] : Sub (DensePoly R)` via `DensePoly.sub` in
  `HexPoly/Operations.lean:138`,
- `instance [Sub R] : Neg (DensePoly R)` via `DensePoly.neg = 0 - p` in
  `HexPoly/Operations.lean:142-146`.

None of these have a Mathlib-side bridge wrapper. So `toPolynomial 1`,
`toPolynomial (p - q)`, and `toPolynomial (-p)` do not currently rewrite
under `simp`, and any future Mathlib bridge that talks about subtraction
or constants-other-than-`C c` has to take an indirect path (e.g.,
expanding `1 = C 1` by hand or going via `coeff_toPolynomial`).

This is strictly additive surface: the executable side already has all
the operations, and `Polynomial R` already has the matching
`(1 : Polynomial R)`, `Polynomial.sub`, `Polynomial.neg`. The wrappers
are just the missing `@[simp]` interface that makes `equiv` total at
the `Semiring` / `Ring` level.

## Deliverables

In `HexPolyMathlib/Basic.lean`, add four public docstringed `@[simp]`
wrappers, mirroring the existing `toPolynomial_zero` / `toPolynomial_add`
cluster:

1. **`toPolynomial_one`** — place immediately after `toPolynomial_zero`
   (line 220). Statement:

   ```lean
   /-- `toPolynomial` sends the executable constant `1` to Mathlib's
   polynomial `1`. -/
   @[simp]
   theorem toPolynomial_one [Semiring R] [DecidableEq R] :
       toPolynomial (1 : Hex.DensePoly R) = 1 := by
     show toPolynomial (Hex.DensePoly.C 1) = 1
     rw [toPolynomial_C, Polynomial.C_1]
   ```

   `Hex.DensePoly`'s `One` instance is definitionally `C 1`
   (`HexPoly/Euclid.lean:25-26`), and `Polynomial.C_1` is the Mathlib
   lemma `Polynomial.C 1 = 1` (in `Mathlib.Algebra.Polynomial.Basic`,
   already imported via `Mathlib.Algebra.Polynomial.Coeff`). The `show`
   step makes the definitional unfolding explicit so the proof is
   robust against future `One` refactors.

2. **`ofPolynomial_one`** — place immediately after `ofPolynomial_zero`
   (line 214). Statement:

   ```lean
   /-- `ofPolynomial` sends Mathlib's polynomial `1` to the executable
   constant `1`. -/
   @[simp]
   theorem ofPolynomial_one [Semiring R] [DecidableEq R] :
       ofPolynomial (1 : Polynomial R) = 1 := by
     show ofPolynomial (1 : Polynomial R) = Hex.DensePoly.C 1
     apply Hex.DensePoly.ext_coeff
     intro n
     rw [coeff_ofPolynomial, Hex.DensePoly.coeff_C, Polynomial.coeff_one]
   ```

   `Polynomial.coeff_one` gives
   `Polynomial.coeff (1 : Polynomial R) n = if n = 0 then 1 else 0`,
   matching `Hex.DensePoly.coeff_C` at `n` against the same condition.
   If `simp` does not close after the rewrites because the conditional
   shapes are arranged differently, split on `n = 0` (`by_cases hn : n = 0`)
   and close each branch via `rfl` / `simp [hn]` — matching the pattern
   in `toPolynomial_C` (line 223).

3. **`toPolynomial_neg`** — place immediately after `toPolynomial_add`
   (line 240). Statement:

   ```lean
   /-- `toPolynomial` commutes with executable polynomial negation. -/
   @[simp]
   theorem toPolynomial_neg [Ring R] [DecidableEq R] (p : Hex.DensePoly R) :
       toPolynomial (-p) = -toPolynomial p := by
     ext n
     rw [coeff_toPolynomial, Polynomial.coeff_neg, coeff_toPolynomial]
     exact Hex.DensePoly.coeff_neg p n (by show (0 : R) - 0 = 0; simp)
       |>.trans (by simp)
   ```

   `Hex.DensePoly.neg` is definitionally `0 - p`
   (`HexPoly/Operations.lean:142-146`), so the cleanest route is via
   `Hex.DensePoly.coeff_neg`, which states
   `(-p).coeff n = (0 : R) - p.coeff n` after consuming the zero-law
   hypothesis. In a `Ring`, `0 - x = -x`, closing the goal. The proof
   body above is a sketch — the worker should pick the shortest
   surviving form (single `simp [Hex.DensePoly.coeff_neg, ...]` may work
   directly, given the `[Ring R]` `0 - x = -x` simp).

4. **`toPolynomial_sub`** — place immediately after `toPolynomial_neg`.
   Statement:

   ```lean
   /-- `toPolynomial` commutes with executable polynomial subtraction. -/
   @[simp]
   theorem toPolynomial_sub [Ring R] [DecidableEq R] (p q : Hex.DensePoly R) :
       toPolynomial (p - q) = toPolynomial p - toPolynomial q := by
     ext n
     rw [coeff_toPolynomial, Polynomial.coeff_sub, coeff_toPolynomial,
         coeff_toPolynomial]
     exact Hex.DensePoly.coeff_sub p q n (by show (0 : R) - 0 = 0; simp)
   ```

   Mirrors `toPolynomial_add` exactly. The only difference is that the
   zero-hypothesis fed to `Hex.DensePoly.coeff_sub` is `0 - 0 = 0`
   instead of `0 + 0 = 0`, and the typeclass strengthens from
   `Semiring` to `Ring` because `Polynomial.coeff_sub` lives at `Ring`.

Style notes:

- All four wrappers carry `@[simp]`, matching the existing
  `toPolynomial_zero` / `toPolynomial_add` cluster.
- One-line docstrings, matching the existing pattern in the same file.
- Typeclass choices: `[Semiring R]` for `_one` / `ofPolynomial_one`
  (only needs `1`); `[Ring R]` for `_neg` and `_sub` (needs additive
  group). `[DecidableEq R]` everywhere, matching the existing bridge.
- Do **not** rewire any consumer in `HexPolyMathlib/Euclid.lean` or
  downstream files in this issue. The point is to ship the surface;
  migrating callers (if any) is a separate follow-up review issue.

## Context

Phase 6 (proof polishing) for `HexPolyMathlib` is open per
`python3 scripts/status.py`:

```
HexPolyMathlib -> Phase 6 (proof polishing)
  spec: SPEC/Libraries/hex-poly-mathlib.md
  plan: PLAN/Phase6.md
  on complete: libraries.yml HexPolyMathlib.done_through: 6
```

Recent Phase 6 wrappers in adjacent libraries follow the same additive
pattern: #5127 added `eval` / `derivative` semiring simp wrappers in
`HexPoly`; #5158 added `repr_one` / `toQuotient_neg` simp wrappers in
`HexGfqField`; #5165 is in flight to add `coeff_add_semiring` /
`coeff_sub_ring` / `coeff_neg_ring` in `HexPoly`. This issue brings the
`HexPolyMathlib` bridge into parity with the executable-side operations
that already have wrappers.

Strictly additive: no behaviour change, no rewiring, no impact on the
project graph beyond the four new `@[simp]` declarations being available.

## Verification

- `lake build HexPolyMathlib.Basic`
- `lake build HexPolyMathlib`
- `python3 scripts/check_dag.py`
- `git diff --check`
- `git grep -n "toPolynomial_one\\|ofPolynomial_one\\|toPolynomial_neg\\|toPolynomial_sub" HexPolyMathlib/Basic.lean`
  — confirms the four new declarations are present.
- `git diff -- HexPolyMathlib/Basic.lean | rg -n "sorry|axiom|native_decide|TODO|FIXME"`
  — must produce no output.

End-of-turn progress file as usual.

**Comment by kim-em** [comment]
Session: `e5639de2-620a-4324-863f-40938e7efb77` Branch: `agent/e5639de2`

**Comment by kim-em** [comment]
Claimed by session `b3df603b-3fe6-4b4d-98ea-79473d948530` on branch `agent/b3df603b`
